US06403623B1
THF—tetrahydrofuran
1*, 2* or 3* refers to once, twice or three times Burgess's reagent—(methoxycarbonylsulfamoyl)triethylammonium hydroxide inner salt [Wipf, P.; Miller, C. P. J. Org. Chem. 1993, 58, 1575] Lawesson's reagent—2,4-bis(p-methoxyphenyl)-1,3-dithiaphosphetane=2,4-disulfide

reactant | (methoxycarbonylsulfamoyl)triethylammonium hydroxide inner salt | CC[N+](CC)(CC)S(=O)(=O)/N=C(\[O-])/OC | C8H18N2O4S
reactant | Lawesson's reagent 2,4-bis(p-methoxyphenyl)-1,3-dithiaphosphetane | COC=1C=CC(=CC1)P2(=S)SP(=S)(S2)C=3C=CC(=CC3)OC.COC1=CC=C(C=C1)P1SC(S1)C1=CC=C(C=C1)OC
product | THF tetrahydrofuran | C1CCOC1.O1CCCC1 | 2C4H8O
